US04301169
Synthesis of 1-[4-(4-chlorobenzoylamino)phenyl]-2-ethylimidazole
1.9 g of 1-(4-aminophenyl)-2-ethylimidazole was added to a solution of 2.6 g of p-chlorobenzoyl chloride in 50 ml of toluene, and the mixture was refluxed with stirring for 7 hours. The reaction mixture was naturally cooled and diethyl ether was then added thereto. The precipitated crystal was recovered by filtration, washed sufficiently with ethyl ether and recrystallized from ethanol and then from water to obtain 2.5 g of the intended compound in the form of a hydrochloride. The melting point was 265° to 267° C. Elementary analysis values as C18H16ClN3O.HCl.1/2H2O were as follows.

reactant | 1-(4-aminophenyl)-2-ethylimidazole | 1.9 g | NC1=CC=C(C=C1)N1C(=NC=C1)CC | C11H13N3
reactant | p-chlorobenzoyl chloride | 2.6 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(4-chlorobenzoylamino)phenyl]-2-ethylimidazole | 2.5 g | ClC1=CC=C(C(=O)NC2=CC=C(C=C2)N2C(=NC=C2)CC)C=C1 | C18H16ClN3O
